US05391541
By the method of Example 1, Step B, 13.95 grams (0.0674 mole) of 2,5-dichloro-3-methoxyphenylmethanol and 7.295 grams (0.270 mole) of phosphorus tribromide were reacted in toluene, yielding 15.76 grams of 2,5-dichloro-3-methoxyphenylmethyl bromide as an oil. The NMR spectrum was consistent with the proposed structure.

reactant | 2,5-dichloro-3-methoxyphenylmethanol | 0.0674 mole, 13.95 grams | ClC1=C(C=C(C=C1OC)Cl)CO | C8H8Cl2O2
reactant | phosphorus tribromide | 0.270 mole, 7.295 grams | P(Br)(Br)Br | Br3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-dichloro-3-methoxyphenylmethyl bromide | 15.76 grams | ClC1=C(C=C(C=C1OC)Cl)CBr | C8H7BrCl2O
